US05405861
To an acetone (50 ml) solution containing 2-mercapto-1-methyltetrazole (4.0 g) and anhydrous potassium carbonate (20 g) was added 1-bromo-2-chloroethane (5.0 ml) under ice-cooling. The mixture was stirred for 90 minutes at room temperature, to which was added methylene chloride (50 ml). The mixture was subjected to filtration, and the filtrate was concentrated under reduced pressure to afford 2-(chloroethylthio)-1-methyltetrazole (6.0 g) as a pale yellow oily substance.

reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | 2-mercapto-1-methyltetrazole | 4.0 g | SN1N(C=NN1)C | C2H6N4S
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 5.0 ml | BrCCCl | C2H4BrCl
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(chloroethylthio)-1-methyltetrazole | 6.0 g | ClCCSN1N(C=NN1)C | C4H9ClN4S
